US05279999
Preparation of bis(1,2-diphenylcyclopentadienyl)zirconium dichloride
A mixture of 1,2-diphenyl-1,2-cyclopentanediol (1.2 g; 0.0048 mole), activated 4A molecular sieves and a small amount of p-toluenesulphonic acid in 40 ml benzene was heated at 70° C. for 30 minutes. The mixture was filtered at room temperature. A solution (3.0 ml) of n-butyllithium in hexane (1.6 mole/liter, 0.0048 mole n-butyllithium) was added to the filtrate. After 45 minutes of stirring, a solution of zirconium tetrachloride (0.56 g; 0.0024 mole) in tetrahydrofuran was slowly added. After stirring the mixture at 65° C. for three hours, the solvents were evaporated. The solid material obtained was taken up in dichloromethane and centrifuged. The supernatant liquid was decanted and evaporated to dryness. The residue was washed with hexane and crystallized from toluene.

reactant | 1,2-diphenyl-1,2-cyclopentanediol | 0.0048 mole, 1.2 g | C1(=CC=CC=C1)C1(C(CCC1)(O)C1=CC=CC=C1)O | C17H18O2
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | n-butyllithium | 3.0 ml | C(CCC)[Li]
reactant | hexane | 0.0048 mole, 1.6 mole/liter | CCCCCC | C6H14
reactant | zirconium tetrachloride | 0.0024 mole, 0.56 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | bis(1,2-diphenylcyclopentadienyl)zirconium dichloride | [Cl-].[Cl-].C1(=CC=CC=C1)C1(C(=CC=C1)C1=CC=CC=C1)[Zr+2]C1(C(=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/2C17H13.2ClH.Zr/c2*1-3-8-14(9-4-1)16-12-7-13-17(16)15-10-5-2-6-11-15;;;/h2*1-13H;2*1H;/q;;;;+2/p-2
